US04344943
The resulting product is reacted with acetic anhydride in accordance with the method of F. F. Blicheand E. S. Blake, J.Am.Chem.Soc.,53, 1015 (1931). A mixture of 1-(2-hydroxyethyl)pyrrole (147 g, 1.32 mole), pyridine (415 ml) and acetic anhydride (139 ml) is heated on a steam bath for 0.5 hours. The reaction mixture is cooled to room temperature, poured into water (one 1) and the product is extracted into ethyl acetate (3×1 l). The extract is washed successively with dilute hydrochloric acid, saturated sodium chloride solution, dilute sodium bicarbonate solution, and again with saturated sodium chloride solution. The extract is dried over sodium sulfate, evaporated in vacuo and the residue (150 g) is subjected to column chromatography on Florisil® activated magnesium silicate. The desired product is eluted with hexane-dichloromethane (1:1) to give 128 g (55%) 1-(2-acetoxyethyl)pyrrole, an oil, identical to an authentic specimen.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(2-hydroxyethyl)pyrrole | 1.32 mole, 147 g | OCCN1C=CC=C1 | C6H9NO
reactant | pyridine | 415 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 139 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 1-(2-acetoxyethyl)pyrrole | 128 g, 55% | C(C)(=O)OCCN1C=CC=C1 | C8H11NO2
